US07138075B2
2,7-diaminothianthrene (Method e)
To a solution of 2,7-dinitrothianthrene (550 mg, 1.8 mmole) in 100 mL of ethanol was added graphite (1.72 g, 144 mmole) and hydrazine (0.56 mL, 18 mmole) with continued stirring and the mixture was refluxed for over night. The reaction mixture was cooled to room temperature and filter through a short column of celite 545. The solvent was then removed and the resulting white solid was dried in vacuo. It was then recrystallized from CHCl3 or used without further purification. mp 185˜186° C. 1H NMR (300 MHz, CDCl3) δ: 7.15 (d, 2H, J=8.1 Hz), 6.81 (d, 2H, J=2.7 Hz), 6.52 (dd, 2H, J=8.1, 2.7 Hz), 3.68 (bs, 4H). 13C NMR (75 MHz, d6-acetone) δ: 149.5, 139.1, 130.0, 121.9, 114.8, 114.6. HR-MS (ESI): calcd. for C12H10N2S2+Na 269.0178 [(M+Na)+]. found 269.0176.

reactant | 2,7-dinitrothianthrene | 1.8 mmole, 550 mg | [N+](=O)([O-])C1=CC=2SC3=CC=C(C=C3SC2C=C1)[N+](=O)[O-] | C12H6N2O4S2
reactant | hydrazine | 18 mmole, 0.56 mL | NN | H4N2
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 2,7-diaminothianthrene | NC1=CC=2SC3=CC=C(C=C3SC2C=C1)N | C12H10N2S2
